US06300342B1
(a) 1-[3-(4-cyano-phenyl)-propionyl]-1,2,3,4-tetrahydro-quinoline-6-sulphonylchloride
(0.04 mol) of 1-[3-(4-cyano-phenyl)-propionyl]-1,2,3,4-tetrahydro-quinoline are dissolved in 16 ml of chlorosulphonic acid at 0° C. The thickly liquid mass is heated to 60° C. and hydrochloric acid develops. Then the mixture is carefully added to ice and extracted with methylene chloride, dried and concentrated by rotary evaporation.

reactant | 1-[3-(4-cyano-phenyl)-propionyl]-1,2,3,4-tetrahydro-quinoline | 0.04 mol | C(#N)C1=CC=C(C=C1)CCC(=O)N1CCCC2=CC=CC=C12 | C19H18N2O
reactant | hydrochloric acid | Cl | ClH
reactant | chlorosulphonic acid | 16 ml | ClS(=O)(=O)O | ClHO3S
product | 1-[3-(4-cyano-phenyl)-propionyl]-1,2,3,4-tetrahydro-quinoline-6-sulphonylchloride | C(#N)C1=CC=C(C=C1)CCC(=O)N1CCCC2=CC(=CC=C12)S(=O)(=O)Cl | C19H17ClN2O3S
